US04002764
A solution of 1.60 g (0.005 mole) of 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carbonitrile in a mixture of 50 ml of methanol and 50 ml of 1N sodium hydroxide solution is allowed to stand for ca. 10 minutes at 25°. The reaction mixture is then neutralised with 2N hydrochloric acid, and concentrated to about half its volume. The concentrate is extracted in methylene chloride, the organic solution washed with saturated sodium chloride solution, dried over sodium sulphate and concentrated by evaporation. The residue is crystallised from methanol/ethyl acetate/petroleum ether to obtain 6-phenyl-8-chloro-4H-s-triazolo [4,3-a][1,4]benzodiazepine-1-carboxamide, M.P. 285°-289°.

reactant | 6-phenyl-8-chloro-4H-s-triazolo[4,3-a][1,4]benzodiazepine-1-carbonitrile | 0.005 mole, 1.60 g | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)C#N | C17H10ClN5
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | methanol | 50 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | 6-phenyl-8-chloro-4H-s-triazolo [4,3-a][1,4]benzodiazepine-1-carboxamide | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)C(=NN2)C(=O)N | C17H12ClN5O
